data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_459190_1,[C:1]([C:4]([C:6]([C:2]([C:5]([H:21])([H:22])[H:23])([N:7]([H:15])[H:16])[H:14])([C:3]([O:9][H:12])([H:17])[H:18])[O:10][H:11])([H:19])[H:20])(=[O:8])[H:13]>>[C:1]([C:3]([O:9][H:12])([H:17])[H:18])([C:4]([C:6]([C:2]([C:5]([H:21])([H:22])[H:23])([N:7]([H:15])[H:16])[H:14])=[O:10])([H:19])[H:20])([O:8][H:11])[H:13],64.34510500005331
MR_405526_1,[C:1](\[C:3]([H:13])([H:14])[H:15])(=[C:5](/[C:6](=[C:4]([H:16])[H:18])[H:12])[H:11])[O:7][C:2]([O:8][H:9])([H:10])[H:17]>>[C:1]1([C:3]([H:13])([H:14])[H:15])(/[C:5](=[C:6](\[C:4]([H:16])([H:17])[H:18])[H:12])[H:11])[C:2]([O:8][H:9])([H:10])[O:7]1,65.57061249999109
MR_7462_1,[C:1]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])/[C:6]([N:7]([H:9])[H:10])=[N:8]/[C:3]([H:16])([H:17])[H:18])([H:11])[H:12]>>[C:1]([C:4]([H:19])([H:20])[H:21])([N:8]([C:3]([H:16])([H:17])[H:18])/[C:6](=[N:5]\[C:2]([H:13])([H:14])[H:15])[N:7]([H:9])[H:10])([H:11])[H:12],66.97244749998305
MR_556454_1,[C:1]([N:3]([C:2]([H:17])([H:18])[H:19])[O:8][H:9])(/[C:4]([N:5]([H:10])[H:11])=[C:7](/[N:6]([H:12])[H:13])[H:16])([H:14])[H:15]>>[C:1](=[C:4]([N:5]([H:10])[H:11])[C:7]([N:3]([C:2]([H:17])([H:18])[H:19])[O:8][H:9])([N:6]([H:12])[H:13])[H:16])([H:14])[H:15],57.44887999998667
MR_68938_2,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])/[C:5](=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:14])[O:8][H:9])([N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([N:6]([H:10])[H:11])([C:7]([C:3]([H:18])([H:19])[H:20])(/[C:5](=[N:4]\[C:2]([H:15])([H:16])[H:17])[O:8][H:9])[H:14])([H:12])[H:13],60.90201250000732
MR_595601_0,[C:1]1([N:4]([H:9])[H:10])([H:8])[C:5]([H:11])=[N:7][C:3]([C:2]([H:13])([H:14])[H:15])=[C:6]1[H:12]>>[C:1]1([N:4]([H:9])[H:10])([H:8])[C:5]2([H:11])[C:6]1([H:12])[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]2,68.1822674999961
MR_89463_0,[C:1]([N:2]([C:3](=[O:5])[H:7])[O:4][H:6])([H:8])([H:9])[H:10]>>[C:1]([N:2]1[C:3]([O:4][H:6])([H:7])[O:5]1)([H:8])([H:9])[H:10],68.37240000001543
MR_128933_0,[C:1]1([N:6]([H:13])[H:14])([H:11])[C:5]([O:8][H:10])([O:9][H:12])[C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[O:7]1>>[C:1]([C:5]([O:8][H:10])=[O:9])([N:6]([H:13])[H:14])([O:7][C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[H:12])[H:11],68.80976749998126
MR_146552_0,[C:1](/[C:5](=[C:4](/[C:2]([H:14])([H:15])[H:16])[C:3]([O:6][H:9])=[O:8])[H:13])([O:7][H:10])([H:11])[H:12]>>[C:1](=[C:5]([C:4]([C:2]([H:14])([H:15])[H:16])([C:3]([O:6][H:9])=[O:8])[O:7][H:10])[H:13])([H:11])[H:12],65.62144000000544
MR_577739_0,[C@@:1]([C:3]([N:2]([N:5]([H:12])[H:13])[H:10])=[O:8])([C:4]([N:7]([H:16])[H:17])=[O:9])([N:6]([H:14])[H:15])[H:11]>>[C@@:1]([N:2]([N:5]([H:12])[H:13])[H:10])([C:3]([C:4]([N:7]([H:16])[H:17])=[O:9])=[O:8])([N:6]([H:14])[H:15])[H:11],55.42770250002462
MR_45018_0,[C:1](/[N:6]=[C:3](/[N:2]([O:5][H:7])[H:8])[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6](/[C:3](=[N:2]\[O:5][H:7])[N:4]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13],37.20008249999594
MR_268283_2,[C:1](/[C:4](=[C:5](/[C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])[O:7][H:10])[O:6][H:9])([O:8][H:11])([H:12])[H:13]>>[C:1](/[C:5](=[C:4](/[C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])[O:6][H:9])[O:7][H:10])([O:8][H:11])([H:12])[H:13],61.98570500001779
MR_63090_1,[N:1]1([H:8])[C:3](=[O:6])[C:4]1(/[C:5](=[N:2]/[H:7])[H:10])[H:9]>>[n:1]1([H:8])[c:3](=[O:6])[n:2]([H:7])[c:5]([H:10])[c:4]1[H:9],22.802094999964737
MR_479908_1,[C:1]([N:2]([H:9])[H:10])(=[O:5])[N:6]([C:3](=[C:4]([H:12])[H:13])[H:11])[O:7][H:8]>>[C:1]([N:2]([H:9])[H:10])([C:3](=[C:4]([H:12])[H:13])[H:11])([O:5][H:8])[N:6]=[O:7],63.26517750003333
MR_187594_2,[C@@:1]1([C:6]([C:8]([H:21])([H:22])[H:23])([H:16])[H:17])([C:7]([H:18])([H:19])[H:20])[C:4]([H:12])([H:14])[C:2]2([H:10])[C@@:3]([H:11])([C:5]1([H:13])[H:15])[O:9]2>>[C:1]1([C:6]([C:8]([H:21])([H:22])[H:23])([H:16])[H:17])([C:7]([H:18])([H:19])[H:20])[C:4]([H:12])([H:14])[C:2]2([H:10])[C:3]([H:11])([C:5]1([H:13])[H:15])[O:9]2,71.18924749996609
MR_528410_0,[C:1]([C:5]([C:3](/[C:4](=[N:2]\[H:13])[O:8][H:12])([O:6][H:11])[O:7][H:10])=[O:9])([H:14])([H:15])[H:16]>>[C:1]([C:5]([N:2]([C:4](=[C:3]([O:6][H:11])[O:7][H:10])[O:8][H:12])[H:13])=[O:9])([H:14])([H:15])[H:16],56.48503999999463
MR_407439_0,[C:1]([O:3][O:2][O:4][H:6])(=[O:5])[H:7]>>[C:1](=[O:3])([O:5][O:2][O:4][H:6])[H:7],33.70741750000377
MR_327035_2,[C:1](/[N:5]=[C:8](/[C:7]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])/[C:6]([C:2]([H:15])([H:16])[H:17])=[N:9]\[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:5](/[C:6]([C:2]([H:15])([H:16])[H:17])=[N:9]\[H:10])[C:8](=[C:7]([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])[H:11])([H:12])([H:13])[H:14],57.1062650000313
MR_54020_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([O:8][H:12])[H:13])=[O:9])([O:6][H:11])[O:7][H:10]>>[C:1]([C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([O:8][H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[O:9][H:11])(=[O:6])[O:7][H:10],43.21843499999616
